US09447106B2
A mixture of 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile (1.5 g, 5.4 mmol) and K2CO3 (2.24 g, 16.3 mmol) in 50 mL of DMF at 80° C. was stirred under N2 for 45 min before tert-butyl 3-bromo-4-oxopiperidine-1-carboxylate (4.5 g, 16.3 mmol) was added in one portion. Then the mixture was stirred at 80° C. for 1 hr. After cooling down to RT, 150 mL of water and 150 mL of EA was added. Aqueous phase was further extracted with EA (100 mL×3). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated to get crude product which was chromatographed on 15 g of silica gel using DCM/MeOH (400/1 to 200/1) as eluant to afford 850 mg (35%) of tert-butyl 3-cyano-2-(4-phenoxyphenyl)-5,6-dihydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-7(8H)-carboxylate as an off-white solid. MS (ESI) m/e [M+1]+ 455.9.

reactant | 5-amino-3-(4-phenoxyphenyl)-1H-pyrazole-4-carbonitrile | 5.4 mmol, 1.5 g | NC1=C(C(=NN1)C1=CC=C(C=C1)OC1=CC=CC=C1)C#N | C16H12N4O
reactant | K2CO3 | 16.3 mmol, 2.24 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 3-bromo-4-oxopiperidine-1-carboxylate | 16.3 mmol, 4.5 g | BrC1CN(CCC1=O)C(=O)OC(C)(C)C | C10H16BrNO3
reactant | water | 150 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EA | 150 mL | CC(OCC)=O | C4H8O2
product | tert-butyl 3-cyano-2-(4-phenoxyphenyl)-5,6-dihydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-7(8H)-carboxylate | 850 mg, 35% | C(#N)C=1C(=NN2C1NC1=C2CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C26H25N5O3
